US07344702B2
Synthesis of 4-(2-(4-(4-fluorobutyl)phenyl) ethoxy) quinazoline
4-(2-(4-(4-p-toluenesulfonyloxybutyl)phenyl) ethoxy) quinazoline (0.3 g, 0.63 mmol) is added to a solution of potassium fluoride/kryptofix 222 in 5 ml THF (1:1 ratio, 3.15 mmol each). After stirring at room temperature for 15 minutes the solution is then refluxed for 20 minutes. It is then cooled and water is added to it. The solution is then extracted in dichloromethane and washed with water and dried. The crude product is purified by silica gel flash chromatography (ethyl acetate/hexanes) to afford the product.

reactant | 4-(2-(4-(4-p-toluenesulfonyloxybutyl)phenyl) ethoxy) quinazoline | 0.63 mmol, 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCC1=CC=C(C=C1)CCOC1=NC=NC2=CC=CC=C12)C | C27H28N2O4S
reactant | potassium fluoride kryptofix 222 | [F-].[K+].C1COCCOCCN2CCOCCOCCN1CCOCCOCC2
reactant | THF | 3.15 mmol, 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-(2-(4-(4-fluorobutyl)phenyl) ethoxy) quinazoline | FCCCCC1=CC=C(C=C1)CCOC1=NC=NC2=CC=CC=C12 | C20H21FN2O
